US05563163
Reaction of isothiazole-5-carboxaldehyde with lithium 3-(triphenylphosphoranylidene)propanoate under standard Wittig conditions provides 4-(5-isothiazolyl)-3-butenoic acid which is reduced and cyclized with aluminum chloride to provide 4-oxo-4,5,6,7-tetrahydrobenzisothiazole. The 4-oxo compound is reacted with methylenetriphenyl phosphorane under standard Wittig conditions and a methylene is inserted into the resulting 4-methylene compound via a Simmons Smith reaction to provide 6,7-dihydrospiro [benzisothiazol-4 (SH), 1'-cyclopropane]which is oxidized with hydrogen peroxide in acetic acid to give 6,7-dihydrospiro[-3-oxo-benzisothiazol-4(5H),1'-cyclopropane 1,1-dioxide (4-spirocyclopropyl tetrahydrosaccharin). This is chloromethylated according to the procedure of Preparation 1A to give 2-chloromethyl-4-spirocyclopropyl-4,5,6,7-tetrahydrosaccharin.

reactant | isothiazole-5-carboxaldehyde | S1N=CC=C1C=O | C4H3NOS
reactant | lithium 3-(triphenylphosphoranylidene)propanoate | C1(=CC=CC=C1)P(=CCC(=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
product | 4-(5-isothiazolyl)-3-butenoic acid | S1N=CC=C1C=CCC(=O)O | C7H7NO2S
